US06313127B1
1M sodium hydroxide solution (103 ml) was added to a suspension of ethyl 4-[4-(4pyridyl)-1-piperazinyl]benzoate (10.3 g) in ethanol (200 ml) and the mixture was stirred at ambient temperature for 16 hours. The solution was evaporated to dryness. The residue was stirred in water (515 ml) for 15 minutes and any insoluble material was filtered off. The filtrate was treated with ice-cooled 1 M hydrochloric acid (103 ml). The precipitate was filtered off, slurry washed with water, sucked dry and dried over phosphorus pentoxide, at 50° C. for 2 days to give 4-[1-(4-pyridyl)piperazin-4-yl]-benzoic acid (5.24 g) as an off-white solid, mp>300° C.

reactant | sodium hydroxide | 1M, 103 ml | [OH-].[Na+]
reactant | ethyl 4-[4-(4pyridyl)-1-piperazinyl]benzoate | 10.3 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C18H21N3O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-[1-(4-pyridyl)piperazin-4-yl]-benzoic acid | 5.24 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C16H17N3O2
